US06881736B1
d) 6-[(tert-Butoxycarbonyl)methylamino]-2-pyridylethanol
A solution of 2 N LiBH4 in THF (7 mL, 14 mmole) was added via syringe to a stirred solution of ethyl-6-[(tert-butoxycarbonyl)methylamino]-2-pyridylacetate (6.97 g, 23.7 mmole) in anhydrous THF (30 mL) under argon. The reaction was then slowly heated to reflux (initial exotherm). After 16 h at reflux, the reaction was cooled to 0° C. and carefully quenched with water (50 mL). The mixture was extracted with EtOAc (150 mL), and the organic layer was washed with brine, dried (Na2SO4), and concentrated. Purification by flash chromatography on silica gel (35% EtOAc/hexane) gave the title compound (5.26 g, 88%) as a clear oil: 1H NMR (400 MHz, CDCl3) δ 7.57 (m, 2H), 6.88 (d, J=7.2 Hz, 1H), 4.01 (t, 2H), 3.39 (s, 3H), 3.00 (t, 2H), 1.53 (s, 9H); MS (ES) m/e 253.2 (M+H)+.

reactant | LiBH4 | 2 N | [Li+].[BH4-]
reactant | ethyl-6-[(tert-butoxycarbonyl)methylamino]-2-pyridylacetate | 23.7 mmole, 6.97 g | C(C)OC(CC1=NC(=CC=C1)NCC(=O)OC(C)(C)C)=O | C15H22N2O4
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 14 mmole, 7 mL | C1CCOC1 | C4H8O
product | 6-[(tert-Butoxycarbonyl)methylamino]-2-pyridylethanol | 5.26 g, 88% | C(C)(C)(C)OC(=O)CNC1=CC=CC(=N1)C(C)O | C13H20N2O3
